US07084163B2
2,6-dimethyl-4-hydroxy-nicotinic acid
10 g (59.5 mmol) of 2,6-dimethyl-4-oxo-4H-pyran-3-carboxylic acid (prepared according to the method described in Collie, J. Chem. Soc.; 1907; 787) is stirred in 100 ml of 28% aqueous ammonia at room temperature overnight. The residue is diluted with little aqueous HCl, and the solid is filtered off. There is obtained 6.9 g (69% yield) of a solid.

reactant | 2,6-dimethyl-4-oxo-4H-pyran-3-carboxylic acid | 59.5 mmol, 10 g | CC=1OC(=CC(C1C(=O)O)=O)C | C8H8O4
reactant | ammonia | 100 ml | N | H3N
solvent | HCl | Cl | ClH
product | 2,6-dimethyl-4-hydroxy-nicotinic acid | 6.9 g, 69% yield | CC1=C(C(=O)O)C(=CC(=N1)C)O | C8H9NO3
